US08227624B2
To a 300 mL four-necked flask, 20.0 g (0.107 mole) of diphenyl sulfide and 140.0 g of chlorobenzene were fed, and the resulting mixture was stirred and allowed to dissolve. To the resulting solution, 31.5 g (0.236 mole) of aluminum chloride was added, and the resulting mixture was cooled to 10° C., followed by addition of 17.7 g (0.225 mole) of acetyl chloride dropwise thereto while keeping a temperature of not more than 20° C., and allowing the resulting mixture to react by stirring thereof at 10° C. for 2 hours. The reaction solution was added to a mixture of 1000 g of ice water and 1000 mL of methylene chloride with stirring at a temperature of not more than 30° C. The methylene chloride layer was washed 3 times with 1000 mL of water and concentrated under reduced pressure, followed by addition of 1000 mL of methanol to the resultant, collection of the yielded crystals by filtration and drying thereof to obtain 19.67 g of bis(4-acetylphenyl)sulfide. The yield was 68%. To a 100 mL four-necked flask, 6.22 g (0.023 mole) of bis(4-acetylphenyl)sulfide, 60.0 g of acetic acid and 40 g of dichloroethane were fed, and the resulting mixture was allowed to dissolve under heat. To the resulting solution, 0.18 g (0.001 mole) of 20% aqueous solution of titanium trichloride was added, and 2.07 g (0.018 mole) of 30% aqueous hydrogen peroxide solution was added thereto dropwise, followed by stirring the resulting mixture for 2 hours. To this mixture, 100 mL of water was added, and the resulting mixture was cooled to 10° C., followed by collection of yielded crystals by filtration. These crystals were washed with 30 mL of methanol and collected by filtration, followed by drying thereof to obtain 6.39 g of bis(4-acetylphenyl)sulfoxide. The yield was 97%. By following the same procedure as in Example 1 except that 5.73 g (0.020 mole) of bis(4-acetylphenyl)sulfoxide was used instead of bis(hydroxyphenyl)sulfoxide, the compound No. 8 was obtained. The yielded amount was 3.98 g, and the yield was 26%.

reactant | bis(4-acetylphenyl)sulfide | 0.023 mole, 6.22 g | C(C)(=O)C1=CC=C(C=C1)SC1=CC=C(C=C1)C(C)=O | C16H14O2S
reactant | acetic acid | 60.0 g | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 40 g | ClC(C)Cl | C2H4Cl2
reactant | hydrogen peroxide | 0.018 mole, 2.07 g | OO | H2O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | water | 100 mL | O | H2O
product | bis(4-acetylphenyl)sulfoxide | 6.39 g, yield was 97% | C(C)(=O)C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C(C)=O | C16H14O3S
